US04980363
8.8 g of 2-chloro-4-methylthiazole-5-carboxylic acid was suspended in 7 ml of thionyl chloride, and one drop of N,N-dimethylformamide was added. The mixture was heated under reflux for 1 hour, and then the excess of thionyl chloride was evaporated under reduced pressure Benzene (10 ml) was added, and the mixture was evaporated under reduced pressure. This procedure was repeated three times to give 9.7 g of 2-chloro-4-methylthiazole-5-carboxylic acid chloride which was used in the following reaction without purification.

reactant | 2-chloro-4-methylthiazole-5-carboxylic acid | 8.8 g | ClC=1SC(=C(N1)C)C(=O)O | C5H4ClNO2S
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 2-chloro-4-methylthiazole-5-carboxylic acid chloride | 9.7 g | ClC=1SC(=C(N1)C)C(=O)Cl | C5H3Cl2NOS
